US05455260
To 3-(2-phenylethoxy)-1-propanol (2 g; 11 mmol) dissolved in toluene (50 ml), acetonitrile (50 ml), imidazole (2.2 g; 33 mmol) and triphenylphosphine (2.8 g; 11 mmol) is added iodine (2.8 g; 11 mmol). The reaction mixture is heated for 1 hour at 50° C., then it is cooled, diluted with Et2O, washed with 1N HCl, NaS2O3 solution, NaHCO3 and brine, dried (MgSO4) and concentrated in vacuo to dryness. The residue is purified by column chromatography using 10% ether/90% petroleum ether to obtain 1-iodo-3-(2-phenylethoxy)propane which is used directly in Step D.

reactant | 3-(2-phenylethoxy)-1-propanol | 11 mmol, 2 g | C1(=CC=CC=C1)CCOCCCO | C11H16O2
reactant | imidazole | 33 mmol, 2.2 g | N1C=NC=C1 | C3H4N2
reactant | triphenylphosphine | 11 mmol, 2.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | 11 mmol, 2.8 g | II | I2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | Et2O | CCOCC | C4H10O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-iodo-3-(2-phenylethoxy)propane | ICCCOCCC1=CC=CC=C1 | C11H15IO
